US05206377
RATION OF 2-BENZYL-N-PROPIONYLTRYPTAMINE
To 2.3 g (9.2 mmol) of 2-benzyltryptamine in ethyl acetate was added 5 drops NO4OH and excess K2CO3. The mixture was stirred under N2 and 1.8 g (13.8 mmol) propionic anhydride was added. The reaction was washed with sat. NaC1 soln. then H2O. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give a brown oil. The oil was purified by reverse phase chromatography using methanol/water, giving a white solid showing characteristic peaks: NMR (CDCl3) δ: 1.0 ppm (t, 3H, 2.3 (q, 2H), 4.0 (s, 2H). mp. 100°-201° C.

reactant | 2-benzyltryptamine | 9.2 mmol, 2.3 g | C(C1=CC=CC=C1)C1=C(CCN)C2=CC=CC=C2N1 | C17H18N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | propionic anhydride | 13.8 mmol, 1.8 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-BENZYL-N-PROPIONYLTRYPTAMINE | C(C1=CC=CC=C1)C1=C(CCNC(CC)=O)C2=CC=CC=C2N1 | C20H22N2O
